US05463071
4-[4-(1-Amidino-4-piperidinyl)-phenyl]-2-(2-methoxycarbonyl-ethyl)-thiazole
Prepared from 2-(2-methoxycarbonyl-ethyl)-4-[4-(4-piperidinyl)-phenyl]-thiazole and S-ethylisothiourea-hydrobromide by heating to 100° C. for 4 hours in dimethylformamide in the presence of sodium carbonate.

reactant | 2-(2-methoxycarbonyl-ethyl)-4-[4-(4-piperidinyl)-phenyl]-thiazole | COC(=O)CCC=1SC=C(N1)C1=CC=C(C=C1)C1CCNCC1 | C18H22N2O2S
reactant | S-ethylisothiourea-hydrobromide | Br.C(C)SC(N)=N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-[4-(1-Amidino-4-piperidinyl)-phenyl]-2-(2-methoxycarbonyl-ethyl)-thiazole | C(N)(=N)N1CCC(CC1)C1=CC=C(C=C1)C=1N=C(SC1)CCC(=O)OC | C19H24N4O2S
